US09388189B2
(S)-2-(1-((5-(2-Hydroxy-3-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(2-Hydroxy-3-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (71 mg, 0.08 mmol) was treated with trifluoroacetic acid (2 mL, 25.96 mmol) and a solution of ammonia (7N in methanol, 2 mL, 14 mmol) according to the method described in Example 27 to give 19.5 mg (48% yield) of the title compound. Purity 94%.

reactant | (S)-2-(1-((5-(2-Hydroxy-3-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 71 mg | OC1=C(C=CC=C1OC)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H39N7O4Si
reactant | trifluoroacetic acid | 25.96 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 14 mmol, 7N, 2 mL | N | H3N
product | (S)-2-(1-((5-(2-Hydroxy-3-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 19.5 mg, 48% yield | OC1=C(C=CC=C1OC)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H25N7O3
